US07507826B2
4-Cyano-3-methoxyphenyl boronic acid (28)
A 3-necked 1 L round-bottomed flask was equipped with an overhead stirrer, and a nitrogen line. The flask was charged with 45.56 g (215 mmol) of 4-bromo-2-methoxybenzonitrile, 64 mL (277 mmol) of tri-isopropylborate and 500 mL of THF. The solution was cooled to −78° C. in a dry-ice/acetone bath. n-Butyllithium (2.5M, 110 mL, 275 mmol) was added dropwise via addition funnel. The mixture was stirred for 30 minutes and 2N HCl was added. The mixture was stirred for an hour and poured into water. The mixture was extracted with Et2O. The organic solution was backextracted with 1N NaOH. The aqueous layer was washed with Et2O and acidified with conc. HCl. The mixture was extracted with Et2O. The organic extract was dried (MgSO4) and evaporated in vacuo to afford 20.77 g (55%) of the product as a white solid. 1H NMR (500 MHz, d6-DMSO) δ 7.68 (d, 1H), 7.59 (s, 1H), 7.47 (d, 1H), 3.95 (s, 3H).

reactant | 4-bromo-2-methoxybenzonitrile | 215 mmol, 45.56 g | BrC1=CC(=C(C#N)C=C1)OC | C8H6BrNO
reactant | tri-isopropylborate | 277 mmol, 64 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | n-Butyllithium | 275 mmol, 2.5M, 110 mL | C(CCC)[Li]
reactant | HCl | 2N | Cl | ClH
solvent | water | O | H2O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 4-Cyano-3-methoxyphenyl boronic acid | 20.77 g, 55% | C(#N)C1=C(C=C(C=C1)B(O)O)OC | C8H8BNO3
